US06444408B1
Synthesis of 2-Trimethylsilylethylmethacrylate
2-Trimethylsilylethanol (Aldrich) (30 g, 0.25 mole) was placed in a round bottom flask equipped with a condenser, addition funnel, magnetic stirrer and a nitrogen inlet. 200 ml dichloromethane, pyridine (20.80 g, 0.26 mole) and 100 mg of phenothiazine were added to the flask. While stirring, methacryloyl chloride (27.18 g, 0.26 mole) in 100 ml dichloromethane was added dropwise at room temperature. A mildly exothermic reaction occurred. The mixture was stirred overnight at room temperature. Afterwards, the mixture was washed with 1×100 ml deionized water and 2×100 ml brine and dried over anhydrous magnesium sulfate. The solution was concentrated in vacuo. Fractional distillation under reduced pressure gave 20.82 grams of the desired product at 35-38° C. at 0.5 mm.

reactant | 2-Trimethylsilylethanol | 0.25 mole, 30 g | C[Si](CCO)(C)C | C5H14OSi
reactant | pyridine | 0.26 mole, 20.80 g | N1=CC=CC=C1 | C5H5N
reactant | methacryloyl chloride | 0.26 mole, 27.18 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | phenothiazine | 100 mg | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-Trimethylsilylethylmethacrylate | 20.82 grams | C[Si](CCOC(C(=C)C)=O)(C)C | C9H18O2Si
